US06699904B2
To a solution of 3-(4-{1-[(tert-butoxycarbonyl-heptyl-amino)-methyl]-cyclopropyl}-phenyl)-2-ethoxy-acrylic acid ethyl ester (680 mg, 1.40 mmol) in anhydrous methanol (20 mL) in a flame dried round bottom flask under an nitrogen atmosphere was added magnesium turnings (53.50 mmol, 85 mg). After 30 min, 1,2-dibromoethane (1 drop) was added directly to the magnesium turnings via pipette, initiating H2 gas evolution from the magnesium. At this time a dry stir bar was added and the mixture was stirred at room temperature until all of the magnesium solid had dissolved. Two additional portions of magnesium (80 mg) were added and allowed to dissolve (16 h). The mixture was poured over 25 mL of ice cooled 2NHCl. The acidic mixture was brought to pH 8.5 by the addition of concentrated aqueous ammonia, then was extracted with diethyl ether (3×). The organic layers were combined, washed with saturated NaCl (3×), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 3-(4-{1-[(tert-butoxycarbonyl-heptyl-amino)-methyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester as a clear oil (580 mg, 87%).

reactant | 3-(4-{1-[(tert-butoxycarbonyl-heptyl-amino)-methyl]-cyclopropyl}-phenyl)-2-ethoxy-acrylic acid ethyl ester | 1.40 mmol, 680 mg | C(C)OC(C(=CC1=CC=C(C=C1)C1(CC1)CN(CCCCCCC)C(=O)OC(C)(C)C)OCC)=O | C29H45NO5
reactant | magnesium | 53.50 mmol, 85 mg | [Mg] | Mg
reactant | magnesium | 80 mg | [Mg] | Mg
reactant | ammonia | N | H3N
solvent | methanol | 20 mL | CO | CH4O
catalyst | 1,2-dibromoethane | 1 drop | BrCCBr | C2H4Br2
product | 3-(4-{1-[(tert-butoxycarbonyl-heptyl-amino)-methyl]-cyclopropyl}-phenyl)-2-ethoxy-propionic acid methyl ester | 580 mg, 87% | COC(C(CC1=CC=C(C=C1)C1(CC1)CN(CCCCCCC)C(=O)OC(C)(C)C)OCC)=O | C28H45NO5
